US04727080
Preparation of 6-fluoro-7-(pyrrol-1-yl)-1-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (steps E and F)
A mixture of 1.2 g of ethyl 6-fluoro-7-(pyrrol-1-yl)-1-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylate, 10 ml of ethanol, 15 ml of 10% sodium hydroxide solution and 10 ml of water is heated under reflux for 2 hours. 30 ml of 8M hydrochloric acid are added, the mixture is left to cool and the product is filtered off, washed with water and recrystallized from acetic acid to give 0.75 g of a solid melting at 284°-285° C.

reactant | ethyl 6-fluoro-7-(pyrrol-1-yl)-1-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylate | 1.2 g | FC=1C=C2C(C(=CN(C2=CC1N1C=CC=C1)C)C(=O)OCC)=O | C17H15FN2O3
reactant | ethanol | 10 ml | C(C)O | C2H6O
reactant | sodium hydroxide | 15 ml | [OH-].[Na+]
reactant | hydrochloric acid | 8M, 30 ml | Cl | ClH
solvent | water | 10 ml | O | H2O
product | 6-fluoro-7-(pyrrol-1-yl)-1-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 0.75 g | FC=1C=C2C(C(=CN(C2=CC1N1C=CC=C1)C)C(=O)O)=O | C15H11FN2O3
